US08309577B2
Step A: N-(3,4-Dimethoxybenzyl)-2,2-diethoxyacetimidamide
A mixture of methyl 2,2-diethoxyacetimidate (294 mg, 1.824 mmol), (3,4-dimethoxyphenyl)methanamine (312 mg, 1.866 mmol), and MeOH (1.5 mL) was heated with stirring in an oil bath at 70° C. for 2 hrs and allowed to cool to room temperature. The volatile components were removed in vacuo. The residue was carried on without further purification. LCMS RT 0.96 min, MH+=297.2, 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.79-6.93 (3H, m), 4.94 (1H, s), 4.41 (2H, s), 3.84-3.90 (6H, m), 3.52-3.70 (4H, m), 1.19-1.28 (6H, m).

reactant | methyl 2,2-diethoxyacetimidate | 1.824 mmol, 294 mg | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | (3,4-dimethoxyphenyl)methanamine | 1.866 mmol, 312 mg | COC=1C=C(C=CC1OC)CN | C9H13NO2
solvent | MeOH | 1.5 mL | CO | CH4O
product | N-(3,4-Dimethoxybenzyl)-2,2-diethoxyacetimidamide | COC=1C=C(CNC(C(OCC)OCC)=N)C=CC1OC | C15H24N2O4
